US07534829B2
Into a 1 L separable flask equipped with a stirrer and a condenser, 180 g of isopropanol and 216 g of epoxybutane were introduced. After filling with nitrogen, 1.6 g of sodium was added and then refluxed for 16 hours. After addition of 5 g of phosphoric acid to the mixture, 1-isopropoxy-2-butanol (boiling point: 100° C./120 mmHg) and 1-(1-isopropoxy-2-butoxy)-2-butanol (boiling point: 105° C./50 mmHg) were obtained by fractional distillation under reduced pressure. 1-isopropoxy-2-butanol thus obtained is a model compound in the case where one molecule of 1,2-epoxybutane reacted with a hydroxyl group of EVOH and 1-(1-isopropoxy-2-butoxy)-2-butanol is a model compound in the case where two or more molecules of 1,2-epoxybutane reacted with a hydroxyl group of EVOH.

reactant | epoxybutane | 216 g | O1CC1CC | C4H8O
reactant | sodium | 1.6 g | [Na] | Na
reactant | phosphoric acid | 5 g | P(O)(O)(O)=O | H3O4P
reactant | 1-isopropoxy-2-butanol | C(C)(C)OCC(CC)O | C7H16O2
solvent | isopropanol | 180 g | C(C)(C)O | C3H8O
product | 1-(1-isopropoxy-2-butoxy)-2-butanol | C(C)(C)OCC(CC)OCC(CC)O | C11H24O3
